US04983600
N-[[[1-azabicyclo[2.2.2]octan-3-yl]amino]carbonyl]-3,5-dichlorobenzamide
3-Aminoquinuclidine (1.26 g, 10 mmol) and 3,5-dichlorobenzoylurea (2.2 g, 9.44 mmol) in pyridine (15 ml) were stirred and refluxed overnight under nitrogen, filtered hot and allowed to cool to room temperature. The precipitated solid was collected, washed with ethyl acetate and dried to give the title compound (0.93 g) which was converted to the hydrochloride, monohydrate mp 253°-254° C.

reactant | 3-Aminoquinuclidine | 10 mmol, 1.26 g | NC1CN2CCC1CC2 | C7H14N2
reactant | 3,5-dichlorobenzoylurea | 9.44 mmol, 2.2 g | ClC=1C=C(C(=O)NC(=O)N)C=C(C1)Cl | C8H6Cl2N2O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | N-[[[1-azabicyclo[2.2.2]octan-3-yl]amino]carbonyl]-3,5-dichlorobenzamide | 0.93 g | N12CC(C(CC1)CC2)NC(=O)NC(C2=CC(=CC(=C2)Cl)Cl)=O | C15H17Cl2N3O2
